US05157041
A solution of 2.98 g of 3(S)-(benzyloxyformamido)-1,2(S)-epoxy-4-phenylbutane and 2.1 g of N-tert.butyl-octahydro-cyclopenta[b]pyrrole-2-carboxamide in 50 ml of ethanol was heated at reflux for 10 hours and the solvent was then removed by evaporation. Chromatography on silica gel using System H for the elution then gave 4.7 g of 1-[3(S)-(benzyloxyformamido)-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-octahydro-cyclopenta[b]pyrrole-2-carboxamide as a mixture of four diastereomers; MS: m/e 508 [M+H]+.

reactant | 3(S)-(benzyloxyformamido)-1,2(S)-epoxy-4-phenylbutane | 2.98 g | C(C1=CC=CC=C1)OC(=O)N[C@H]([C@H]1CO1)CC1=CC=CC=C1 | C18H19NO3
reactant | N-tert.butyl-octahydro-cyclopenta[b]pyrrole-2-carboxamide | 2.1 g | C(C)(C)(C)NC(=O)C1CC2C(N1)CCC2 | C12H22N2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-[3(S)-(benzyloxyformamido)-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-octahydro-cyclopenta[b]pyrrole-2-carboxamide | 4.7 g | C(C1=CC=CC=C1)OC(=O)N[C@H]([C@@H](CN1C2C(CC1C(=O)NC(C)(C)C)CCC2)O)CC2=CC=CC=C2 | C30H41N3O4
